US07737145B2
A solution of 4-[4-(2-oxazolyl)phenoxy]benzaldehyde (100 mg, 0.38 mmol) and methyl 4-[(methyl(2-(methylamino)ethyl)amino)methyl]benzoate (90 mg, 0.38 mmol) in dichloromethane (4 mL) was stirred for 15 minutes before the addition of sodium triacetoxyborohydride (160 mg, 76 mmol). The reaction mixture was stirred overnight at ambient temperature. Saturated sodium bicarbonate solution was then added. The mixture was stirred for 30 minutes and then extracted with dichloromethane. The combined organic layers were washed with water, dried over sodium sulfate, and concentrated under reduced pressure. Flash chromatography gave 120 mg of methyl 4-[[methyl[2-[methyl[[4-[4-(2-oxazolyl)phenoxy]phenyl]methyl]amino]ethyl]amino]methyl]benzoate; 1H NMR (300 MHz, CDCl3) δ 7.99 (d, 2H), 7.97 (d, 2H), 7.68 (d, 1H), 7.38 (d, 2H), 7.29 (d, 2H), 7.20 (d, 1H), 7.03 (d, 2H), 6.99 (d, 2H), 3.89 (s, 3H), 3.56 (s, 2H), 3.49 (s, 2H), 2.56 (m, 4H), 2.22 (s, 3H), 2.21 (s, 3H) ppm.

reactant | 4-[4-(2-oxazolyl)phenoxy]benzaldehyde | 0.38 mmol, 100 mg | O1C(=NC=C1)C1=CC=C(OC2=CC=C(C=O)C=C2)C=C1 | C16H11NO3
reactant | methyl 4-[(methyl(2-(methylamino)ethyl)amino)methyl]benzoate | 0.38 mmol, 90 mg | CN(CCNC)CC1=CC=C(C(=O)OC)C=C1 | C13H20N2O2
reactant | sodium triacetoxyborohydride | 76 mmol, 160 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | methyl 4-[[methyl[2-[methyl[[4-[4-(2-oxazolyl)phenoxy]phenyl]methyl]amino]ethyl]amino]methyl]benzoate | 120 mg | CN(CCN(CC1=CC=C(C=C1)OC1=CC=C(C=C1)C=1OC=CN1)C)CC1=CC=C(C(=O)OC)C=C1 | C29H31N3O4
